US07858621B2
To a suspension of N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylamide (15 mg, 0.029 mmol) in 5% Pd/C (5 mg) was added CH3OH (1.0 ml). The mixture was purged three times with hydrogen gas (50 psi) and then shaken for 40 min at room temperature. The reaction mixture was filtered over celite pad and concentrated under reduced pressure. The crude residue was chromatographed to yield the N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-propionamide (15 mg, 98%).

reactant | N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylamide | 0.029 mmol, 15 mg | C(#C)C=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)N2CCCC2)=O)C=C(C1NS(=O)(=O)C)F | C23H22F4N4O3S
reactant | CH3OH | 1.0 ml | CO | CH4O
solvent | Pd/C | 5 mg | [Pd] | Pd
product | N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-propionamide | 15 mg, 98% | C(#C)C=1C=C(CNC(CCC=2C(=NC(=CC2)C(F)(F)F)N2CCCC2)=O)C=C(C1NS(=O)(=O)C)F | C23H24F4N4O3S
